US06689780B1
Preparation of N-(5-Chloropyridin-2-yl)-4-[(1-isopropylpiperidin-4-ylcarbonyl)amino]pyridine-3-carboxamide Dihydrochloride
By methods substantially equivalent to those described in example 6-C, N-(5-chloropyridin-2-yl)-4-[(1-isopropylpiperidin-4-ylcarbonyl)amino]pyridine-3-carboxamide hydrochloride (0.219 g, 50%) was prepared from N-(5-chloropyridin-2-yl)-4-[(piperidin-4-ylcarbonyl)amino]pyridine-3-carboxamide trifluoroacetate and acetone. The compound was purified by preparative RPHPLC (C18), eluting with a linear gradient of 95/5 to 60/40 (0.01% HCl/acetonitrile) over 200 min.

reactant | N-(5-chloropyridin-2-yl)-4-[(1-isopropylpiperidin-4-ylcarbonyl)amino]pyridine-3-carboxamide hydrochloride | 0.219 g | Cl.ClC=1C=CC(=NC1)NC(=O)C=1C=NC=CC1NC(=O)C1CCN(CC1)C(C)C
reactant | N-(5-chloropyridin-2-yl)-4-[(piperidin-4-ylcarbonyl)amino]pyridine-3-carboxamide trifluoroacetate | FC(C(=O)O)(F)F.ClC=1C=CC(=NC1)NC(=O)C=1C=NC=CC1NC(=O)C1CCNCC1
solvent | acetone | CC(=O)C | C3H6O
product | N-(5-Chloropyridin-2-yl)-4-[(1-isopropylpiperidin-4-ylcarbonyl)amino]pyridine-3-carboxamide Dihydrochloride | Cl.Cl.ClC=1C=CC(=NC1)NC(=O)C=1C=NC=CC1NC(=O)C1CCN(CC1)C(C)C | InChI=1S/C20H24ClN5O2.2ClH/c1-13(2)26-9-6-14(7-10-26)19(27)24-17-5-8-22-12-16(17)20(28)25-18-4-3-15(21)11-23-18;;/h3-5,8,11-14H,6-7,9-10H2,1-2H3,(H,22,24,27)(H,23,25,28);2*1H
